US04062862
The mixture of 1 g of o-allylacetophenone ethylene ketal, perbenzoic acid prepared from 3.6 g of benzoylperoxide and 100 ml of chloroform was allowed to stand at 5° C for 8 days. The resulting mixture was washed with 10% sodium hydroxide solution, water, Mohr's salt solution, then water, and dried over anhydrous sodium sulfate. The solvent was evaporated to obtain o-(α,α-ethylenedioxyethyl) benzylallylbenzene oxide as pale brownish oily substance.

reactant | o-allylacetophenone ethylene ketal | 1 g | C1COC(C)(C2=C(C=CC=C2)CC=C)O1 | C13H16O2
reactant | perbenzoic acid | C1=CC=CC=C1C(=O)OO | C7H6O3
reactant | benzoylperoxide | 3.6 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | o-(α,α-ethylenedioxyethyl) benzylallylbenzene oxide | C1OC(C)(OC1)C12C(C=CC=C1)(CC=CCC1=CC=CC=C1)O2 | C20H22O3
